US05998433
f) Synthesis of N,N-dimethyl-[5-(6-phenylhexyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine dihydrochloride
N,N-Dimethyl-[5-(6-phenylhexyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl)amine 0.199 g was dissolved in 2 ml of methanol; hydrogen chloride in methanol was added in excess, followed by stirring. After this mixture was concentrated, diethyl ether was added; the resulting solid was filtered and washed with diethyl ether to yield the desired product.

reactant | N,N-Dimethyl-[5-(6-phenylhexyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl)amine | 0.199 g | CN(C)CC1=CC=2CN(CCC2O1)CCCCCCC1=CC=CC=C1 | C22H32N2O
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
product | N,N-dimethyl-[5-(6-phenylhexyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine dihydrochloride | Cl.Cl.CN(C)CC1=CC=2CN(CCC2O1)CCCCCCC1=CC=CC=C1 | InChI=1S/C22H32N2O.2ClH/c1-23(2)18-21-16-20-17-24(15-13-22(20)25-21)14-9-4-3-6-10-19-11-7-5-8-12-19;;/h5,7-8,11-12,16H,3-4,6,9-10,13-15,17-18H2,1-2H3;2*1H
